US09328096B2
Ethyl 5-(2,4-dichloro-5-(pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate
To a solution of 2,4-dichloro-5-(pyridin-2-yl)benzoic acid (Preparation 30, 3.76 g, 14.02 mmol) and ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate (3.89 g, 16.83 mmol) in 2-methyltetrahydrofuran (150 mL) was added DIPEA (7.33 mL, 42 mmol) and the reaction was heated to 95° C. T3P (50% solution in EtOAc, 16.53 mL, 28 mmol) was added and the reaction was stirred at 95° C. for 18 hours. The reaction was cooled and partitioned between saturated aqueous sodium carbonate solution (200 mL) and EtOAc (200 mL). The organic layer was collected, washed with brine, dried over magnesium sulphate and concentrated in vacuo. The residue was triturated with TBME to afford the title compound (5.72 g, 85%).

reactant | 2,4-dichloro-5-(pyridin-2-yl)benzoic acid | 14.02 mmol, 3.76 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)C1=NC=CC=C1 | C12H7Cl2NO2
reactant | ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate | 16.83 mmol, 3.89 g | NC1=CC(=NN1C1=CC=CC=C1)C(=O)OCC | C12H13N3O2
reactant | DIPEA | 42 mmol, 7.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | T3P | 28 mmol, 16.53 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | 2-methyltetrahydrofuran | 150 mL | CC1OCCC1 | C5H10O
product | Ethyl 5-(2,4-dichloro-5-(pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 5.72 g, 85% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C(=C1)Cl)C1=NC=CC=C1 | C24H18Cl2N4O3
